US09260408B2
[C] 6-{5-[(S)-2-(tert-Butyl-dimethyl-silanyloxymethyl)-5-oxo-pyrrolidin-1-ylmethyl]-pyridin-3-yl}-1-methyl-3,4-dihydro-1H-quinolin-2-one
In analogy to the procedure described for the preparation of intermediate A-3 [C], 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-1) has been coupled to (S)-1-(5-bromo-pyridin-3-ylmethyl)-5-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidin-2-one to give the title compound as a brown foam. MS: 480.3 (M+H+).

reactant | 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | CN1C(CCC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)=O | C16H22BNO3
reactant | (S)-1-(5-bromo-pyridin-3-ylmethyl)-5-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidin-2-one | BrC=1C=C(C=NC1)CN1C(CC[C@H]1C(O[SiH2]C(C)(C)C)(C)C)=O | C17H27BrN2O2Si
product | 6-{5-[(S)-2-(tert-Butyl-dimethyl-silanyloxymethyl)-5-oxo-pyrrolidin-1-ylmethyl]-pyridin-3-yl}-1-methyl-3,4-dihydro-1H-quinolin-2-one | C(C)(C)(C)[SiH2]OC([C@H]1N(C(CC1)=O)CC=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O)(C)C | C27H37N3O3Si
